US05401756
a) Preparation of 7-(4-chlorophenoxy)isocoumarin
A solution of 500 mg of 7-(4-chlorophenoxy)-3,4-dihydroisocoumarin, 325 mg of N-bromosuccinimide and 20 mg of benzoyl peroxide in 20 ml of carbon tetrachloride was refluxed under heating for 2 hours. After finishing the reaction, the mixture was washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was mixed with 10 ml of toluene and 490 mg of 1,8-diazabicyclo[5, 4, 0]undec-7-ene and stirred at room temperature for 1 hour. The toluene was evaporated in vacuo, and the resultant residue was chromatographed on a column of silica gel, eluting with ethyl acetate and hexane (1:1) to give 367 mg of the titled compound.

reactant | 7-(4-chlorophenoxy)-3,4-dihydroisocoumarin | 500 mg | ClC1=CC=C(OC2=CC=C3CCOC(=O)C3=C2)C=C1 | C15H11ClO3
reactant | N-bromosuccinimide | 325 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 7-(4-chlorophenoxy)isocoumarin | 367 mg | ClC1=CC=C(OC2=CC=C3C=COC(=O)C3=C2)C=C1 | C15H9ClO3
